US08492540B2
3,5-Bis-trimethylsilanyloxy-[1,2,4]triazine
1.7 mL of trimethylchlorosilane (13.27 mmol) were added with stirring to a mixture of 15 g (133 mmol) of 2H-[1,2,4]triazine-3,5-dione and 74.7 mL of hexamethyldisilazane (358 mmol). The mixture was stirred for 2 h under reflux, and excess of reagents removed in high vacuo. The forming white solid was directly used in the next step.

reactant | trimethylchlorosilane | 13.27 mmol, 1.7 mL | C[Si](Cl)(C)C | C3H9ClSi
reactant | 2H-[1,2,4]triazine-3,5-dione | 133 mmol, 15 g | N=1NC(NC(C1)=O)=O | C3H3N3O2
reactant | hexamethyldisilazane | 358 mmol, 74.7 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
product | 3,5-Bis-trimethylsilanyloxy-[1,2,4]triazine | C[Si](OC=1N=NC=C(N1)O[Si](C)(C)C)(C)C | C9H19N3O2Si2
